US08222245B2
4-[7-(5-{5-Chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl]butanoic acid
A suspension of ethyl 4-[7-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl]butanoate (Preparation 97) (185 mg, 0.371 mmol) in ethanol (3 ml), was treated with 2M sodium hydroxide (0.556 ml, 1.11 mmol) at room temperature overnight to give a colourless precipitate. A further 1-2 mls of ethanol was added and the temperature was raised to 50° C. to complete the reaction. Acetic acid (0.07 ml, 1.22 mmol) was added to the solution and the mixture concentrated. The resultant oily residue was treated with water (ca 3 ml) then stirred at room temperature for 1-2 hr and filtered. The solid was washed with water, then dissolved in methanol and the solvent evaporated. The resultant solid was dried overnight in vacuo at ca 60° C. to give the title compound (153 mgs).

reactant | ethyl 4-[7-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl]butanoate | 0.371 mmol, 185 mg | ClC=1C=C(C=NC1OC(C)C)C1=NC(=NO1)C1=CC2=C(CCN(CC2)CCCC(=O)OCC)C=C1 | C26H31ClN4O4
reactant | sodium hydroxide | 1.11 mmol, 2M, 0.556 ml | [OH-].[Na+]
reactant | Acetic acid | 1.22 mmol, 0.07 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethanol | 1-2 mls | C(C)O | C2H6O
product | 4-[7-(5-{5-Chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl]butanoic acid | 153 mgs | ClC=1C=C(C=NC1OC(C)C)C1=NC(=NO1)C1=CC2=C(CCN(CC2)CCCC(=O)O)C=C1 | C24H27ClN4O4
